US07696213B2
Preparation of 2-amino-8-cyclopentyl-6-(1H-pyrazol-4-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (Compound 101)
To a solution of 2-amino-6-bromo-8-cyclopentyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (100 mg, 0.31 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxy late (110 mg, 1.2 equiv), dichlorobis(triphenylphosphine)palladium(II) (6.5 mg, 009 mmol), DMF (2 mL) in a 10 mL microwave vial was added potassium carbonate (3 M, 0.8 mL). The solution was degassed with N2 for 10 min before being capped and heated in the microwave reactor for 10 min at 120° C. Once complete, the reaction was diluted with 1 N NaOH (10 mL) and EtOAc (50 mL). The EtOAc layer was washed with 3N HCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was submitted for chromatography purification. the title compound was obtained in (62.5 mg, 65% yield).

reactant | 2-amino-6-bromo-8-cyclopentyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.31 mmol, 100 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)C2CCCC2)C | C13H15BrN4O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxy late | 110 mg, 1.2 equiv | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | potassium carbonate | 3 M, 0.8 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 6.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-amino-8-cyclopentyl-6-(1H-pyrazol-4-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 65% yield | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NNC2)=O)C2CCCC2)C | C16H18N6O
